US07015218B1
5-Amino-2-(4-thiomorpholinopiperidin-1-yl)benzonitrile
Reductive amination was conducted according to J. Org. Chem., vol. 55, p. 2552 (1990) using 5-nitro-2-(4-oxopiperidin-1-yl) benzonitrile and thiomorpholine. Then, the nitro group was reduced in the same manner as in Starting Material Synthesis Example 40 to give the title compound, melting point: 138° C.

reactant | 5-nitro-2-(4-oxopiperidin-1-yl) benzonitrile | [N+](=O)([O-])C=1C=CC(=C(C#N)C1)N1CCC(CC1)=O | C12H11N3O3
reactant | thiomorpholine | N1CCSCC1 | C4H9NS
product | 5-Amino-2-(4-thiomorpholinopiperidin-1-yl)benzonitrile | NC=1C=CC(=C(C#N)C1)N1CCC(CC1)N1CCSCC1 | C16H22N4S
